US08609644B2
To a solution of androstane-3β,6α,17β-triol (3.00 g) in CH2Cl2/acetone/—H2O (300/150/6 mL), activated MnO2 (30.0 g, 345 mmol) was added in three portions over 8 h. The mixture was stirred at 45° C. overnight. After cooling to room temperature, the mixture was filtered through Celite. The filtrate was evaporated and the residue was purified by flash chromatography (SiO2, CH2Cl2/n-n-hexane/i-PrOH 10/5/1) to give 3β,17β-dihydroxyandrostan-6-one (0.89 g, 30%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.54 (d, 1H), 4.48 (d, 1H), 3.45 (m, 1H), 3.30 (m, 1H), 2.27 (dd, 1H), 2.08-0.90 (m, 19H), 0.62 (s, 3H), 0.61 (s, 3H).

reactant | androstane-3β,6α,17β-triol | 3.00 g | C[C@@]12[C@H](CC[C@H]1[C@@H]1C[C@@H](C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)O | C19H32O3
solvent | CH2Cl2 acetone | 6 mL | C(Cl)Cl.CC(=O)C
catalyst | MnO2 | 345 mmol, 30.0 g | O=[Mn]=O
product | 3β,17β-dihydroxyandrostan-6-one | 0.89 g, 30% | O[C@@H]1CC2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)=O | C19H30O3
